US05516789
To a stirred -78° C. solution in THF (200 mL) under argon of 2-[5-(4-fluorophenoxy)-2-furyl]-1,1-dibromoethene (23.1 g, 63.81 mmol), prepared as in step 2, was added n-butyl lithium (51.0 mL, 127.62 mmol, 2.5M in hexanes). The reaction was stirred for 0.5 hours at -78° C. Aqueous ammonium chloride was added to the cold reaction, the ice bath was removed and the reaction mixture allowed to warm to room temperature. The majority of THF was removed in vacuo. The resulting mixture was partitioned between water and ether. The combined ether layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by chromatography on silica gel (hexanes) to give 6.5 g (50%) of 2-[5-(4-fluorophenoxy)-2-furyl]-ethyne.

reactant | 2-[5-(4-fluorophenoxy)-2-furyl]-1,1-dibromoethene | 63.81 mmol, 23.1 g | FC1=CC=C(OC2=CC=C(O2)C=C(Br)Br)C=C1 | C12H7Br2FO2
reactant | n-butyl lithium | 127.62 mmol, 2.5M, 51.0 mL | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-[5-(4-fluorophenoxy)-2-furyl]-ethyne | 6.5 g, 50% | FC1=CC=C(OC2=CC=C(O2)C#C)C=C1 | C12H7FO2
